US04529800
143.6 g (one mole) of 2-chloro-6-methoxy-pyridine were added dropwise with stirring over one hour to a mixture of 1600 ml of concentrated sulfuric acid and 800 ml of fuming nitric acid cooled to 0° C. and the temperature was allowed to rise to 20° C. over three hours. The mixture was then stirred at 20° C. for three hours and was poured into 5000 g of crushed ice. The mixture was vacuum filtered and the product was washed with a large volume of water until acid free and dried to obtain 151-156 g (80-83% yield) of 2-chloro-3nitro-6-methoxy-pyridine in the form of yellow crystals melting at 67° to 69° C. with a purity of 84 to 85%.

reactant | 2-chloro-6-methoxy-pyridine | one mole, 143.6 g | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | sulfuric acid | 1600 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 800 ml | [N+](=O)(O)[O-] | HNO3
product | 2-chloro-3nitro-6-methoxy-pyridine | 151-156 g, 80-83% yield | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
